US07635698B2
3-[4-(4-Chloro-benzoyl)-piperazin-1-yl]-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester
6-Oxa-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester (1.85 g 1 eq) and (4-Chloro-phenyl)-piperazin-1-yl-methanone (2.2 g 1 eq) were added into a sealed tube. The mixture was heated to 130° C. for 5 h. The resulting oil was purified by column chromatography (EtOAc:MeOH:Et3N 10:1:0.01) to give 3.38 g of desired product as a sticky oil (84% yield). 1H-NMR (300 MHz, DMSO): δ 1.43 (s, 9 H), 2.40-2.80 (m, 4H), 3.15-3.85 (m, 9 H), 4.26-4.30 (m, 1 H), 7.35 (d, 2 H), 7.38 (d, 2 H). Retention Time (LC, method: Formic acid polar): 1.19 min. MS (M+H+): 410

reactant | 6-Oxa-3-aza-bicyclo[3.1.0]hexane-3-carboxylic acid tert-butyl ester | 1.85 g, 1 eq | C(C)(C)(C)OC(=O)N1CC2OC2C1 | C9H15NO3
reactant | (4-Chloro-phenyl)-piperazin-1-yl-methanone | 2.2 g, 1 eq | ClC1=CC=C(C=C1)C(=O)N1CCNCC1 | C11H13ClN2O
product | 3-[4-(4-Chloro-benzoyl)-piperazin-1-yl]-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 3.38 g, 84% yield | C(C)(C)(C)OC(=O)N1CC(C(C1)O)N1CCN(CC1)C(C1=CC=C(C=C1)Cl)=O | C20H28ClN3O4
